US09334279B2
To a solution of (2S,4R)-methyl 1-((2S,3R)-2-(tert-butoxycarbonylamino)-3-ethyl-5-methylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylate (1.5 g, 3.40 mmole) in THF:water (16 mL, 1:1) was added LiOH (286 mg, 6.80 mmole) followed by 3 mL of methanol at room temperature. The reaction mass was stirred at room temperature overnight. The solvent was evaporated under reduced pressure and the residue was diluted with water and acidified with aqueous 1.5 N HCl solutions. The aqueous solution was extracted with ethyl acetate (20 mL×3). The combined organic layers were dried over anhydrous Na2SO4; filtered; then concentrated under reduced pressure to afford (2S,4R)-1-((2S,3R)-2-(tert-butoxycarbonylamino)-3-ethyl-5-methylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid (1.3 g, 90%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 0.81-0.93 (m, 6H), 1.12-1.29 (m, 5H), 1.30-1.50 (m, 11H), 1.71-1.80 (m, 2H), 1.91-2.51 (m, 4H), 3.57-3.59 (m, 1H), 4.27-4.35 (m, 3H), 4.92-4.97 (m, 2H), 5.01-5.15 (m, 1H), 5.74-5.79 (m, 1H), 6.30-6.80 (m, 1H), 12.50 (sb, 1H). MS: MS m/z 427.6 (M++1).

reactant | (2S,4R)-methyl 1-((2S,3R)-2-(tert-butoxycarbonylamino)-3-ethyl-5-methylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylate | 3.40 mmole, 1.5 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@H](C1)O)C(=O)OC)[C@@H](CC(CCC=C)C)CC | C23H40N2O6
reactant | water | 16 mL | O | H2O
reactant | LiOH | 6.80 mmole, 286 mg | [Li+].[OH-]
reactant | methanol | 3 mL | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | (2S,4R)-1-((2S,3R)-2-(tert-butoxycarbonylamino)-3-ethyl-5-methylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid | 1.3 g, 90% | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@H](C1)O)C(=O)O)[C@@H](CC(CCC=C)C)CC | C22H38N2O6
